US06747023B1
Lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate
In anhydrous tetrahydrofuran (200 ml), 6-methyl -4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (6.43 g) was dissolved, followed by the dropwise addition of a solution (1.47M, 34.00 ml) of n-butyl lithium in n-hexane at an external temperature of −78° C. The resulting mixture was stirred for 40 minutes without changing the temperature. Then a carbon dioxide gas was blown into the reaction mixture for 1 hour. After warming up to room temperature, the reaction mixture was concentrated under reduced pressure, whereby the title compound (9.42 g, quant.) was obtained as a pale brown foamy solid.

reactant | 6-methyl -4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 6.43 g | CC1CC2=C(CN1)SC=N2 | C7H10N2S
reactant | n-butyl lithium | 1.47M, 34.00 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | Lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+] | InChI=1S/C8H10N2O2S.Li/c1-4-2-5-6(3-9-4)13-7(10-5)8(11)12;/h4,9H,2-3H2,1H3,(H,11,12);/q;+1/p-1
